* LVS netlist generated with ICnet by 'tsongati' on Mon Jun  6 2011 at 01:29:42

*
* Globals.
*
.global VDD ground

*
* Component pathname : $FInalproject/default.group/logic.views/inverter
*
.subckt inverter  OUT IN

        M2 OUT IN VDD VDD P L=0.4u W=3.6u M=1
        M1 OUT IN ground ground N L=0.4u W=1.2u M=1
.ends inverter

*
* Component pathname : $FInalproject/default.group/logic.views/NOTXNOR
*
.subckt NOTXNOR  XOR A B

        X_INVERTER1 XOR N$3 inverter
        M2 B A N$3 ground N L=0.4u W=1.2u M=2
        M4 A B N$3 ground N L=0.4u W=1.2u M=2
        M3 N$3 B N$2 VDD P L=0.4u W=2.4u M=2
        M1 N$2 A VDD VDD P L=0.4u W=2.4u M=2
.ends NOTXNOR

