* LVS netlist generated with ICnet by 'tsongati' on Tue May  8 2012 at 16:26:58

*
* Globals.
*
.global VDD ground

*
* Component pathname : $LAB2/default.group/logic.views/inverter
*
.subckt inverter  OUT IN

        M2 OUT IN VDD VDD P L=0.4u W=3.6u M=1
        M1 OUT IN ground ground N L=0.4u W=1.2u M=1
.ends inverter

*
* Component pathname : $LAB2/default.group/logic.views/elen153XOR
*
.subckt elen153XOR  XOR A B

        X_INVERTER1 XOR N$3 inverter
        M2 B A N$3 ground N L=0.4u W=1.2u M=2
        M4 A B N$3 ground N L=0.4u W=1.2u M=2
        M3 N$3 B N$2 VDD P L=0.4u W=2.4u M=2
        M1 N$2 A VDD VDD P L=0.4u W=2.4u M=2
.ends elen153XOR

