* LVS netlist generated with ICnet by 'rguyol' on Mon May 13 2013 at 16:38:16

*
* Globals.
*
.global ground VDD

*
* Component pathname : $UpdatedFiles/default.group/logic.views/AND
*
.subckt AND  OUT A B

        M1 OUT N$4 ground ground N L=.4u W=1.2u M=1
        M3 N$6 A ground ground N L=.4u W=2.4u M=1
        M5 N$4 B N$6 ground N L=.4u W=2.4u M=1
        M4 N$4 B VDD VDD P L=.4u W=2.4u M=1
        M6 N$4 A VDD VDD P L=.4u W=2.4u M=1
        M2 OUT N$4 VDD VDD P L=.4u W=2.4u M=1
.ends AND

