* SPICE NETLIST
***************************************

.SUBCKT AND OUT A B GROUND VDD
** N=7 EP=5 IP=0 FDC=6
M0 7 A 5 GROUND N L=4e-07 W=2.4e-06 AD=1.44e-12 AS=2.88e-12 $X=-34000 $Y=-11000 $D=1
M1 GROUND B 7 GROUND N L=4e-07 W=2.4e-06 AD=3.12e-12 AS=1.44e-12 $X=-29000 $Y=-11000 $D=1
M2 OUT 5 GROUND GROUND N L=4e-07 W=1.2e-06 AD=1.44e-12 AS=3.12e-12 $X=-20000 $Y=-5000 $D=1
M3 5 A VDD VDD P L=4e-07 W=2.4e-06 AD=2.88e-12 AS=3.84e-12 $X=-34000 $Y=13000 $D=0
M4 VDD B 5 VDD P L=4e-07 W=2.4e-06 AD=2.88e-12 AS=2.88e-12 $X=-26000 $Y=13000 $D=0
M5 OUT 5 VDD VDD P L=4e-07 W=2.4e-06 AD=2.88e-12 AS=2.88e-12 $X=-18000 $Y=13000 $D=0
.ENDS
***************************************
