* LVS netlist generated with ICnet by 'mhao' on Mon Nov  7 2016 at 17:26:04

*
* Globals.
*
.global ground VDD

*
* Component pathname : $UpdatedFiles/default.group/logic.views/AND
*
.subckt AND  OUT A B

        M1 OUT N$4 ground ground N L=.4u W=1.2u M=1
        M3 N$6 A ground ground N L=.4u W=2.4u M=1
        M5 N$4 B N$6 ground N L=.4u W=2.4u M=1
        M4 N$4 B VDD VDD P L=.4u W=2.4u M=1
        M6 N$4 A VDD VDD P L=.4u W=2.4u M=1
        M2 OUT N$4 VDD VDD P L=.4u W=2.4u M=1
.ends AND

*
* Component pathname : $UpdatedFiles/default.group/logic.views/inverter
*
.subckt inverter  OUT IN

        M2 OUT IN VDD VDD P L=0.4u W=3.6u M=1
        M1 OUT IN ground ground N L=0.4u W=1.2u M=1
.ends inverter

*
* Component pathname : $UpdatedFiles/default.group/logic.views/153_XOR
*
.subckt 153_XOR  XOR A B

        X_INVERTER1 XOR N$3 inverter
        M2 B A N$3 ground N L=0.4u W=1.2u M=2
        M4 A B N$3 ground N L=0.4u W=1.2u M=2
        M3 N$3 B N$2 VDD P L=0.4u W=2.4u M=2
        M1 N$2 A VDD VDD P L=0.4u W=2.4u M=2
.ends 153_XOR

*
* Component pathname : $UpdatedFiles/default.group/logic.views/HalfAdder
*
.subckt HalfAdder  C S X Y

        X_AND1 C Y X AND
        X_153_XOR1 S Y X 153_XOR
.ends HalfAdder

*
* Component pathname : $UpdatedFiles/default.group/logic.views/OR
*
.subckt OR  OUT A B

        M3 N$12 A ground ground N L=.4u W=1.2u M=1
        M1 N$12 B ground ground N L=.4u W=1.2u M=1
        M6 OUT N$12 VDD VDD P L=.4u W=2.4u M=1
        M5 OUT N$12 ground ground N L=.4u W=1.2u M=1
        M4 N$12 B N$8 VDD P L=.4u W=4.8u M=1
        M2 N$8 A VDD VDD P L=.4u W=4.8u M=1
.ends OR

*
* Component pathname : $UpdatedFiles/default.group/logic.views/FullAdder
*
.subckt FullAdder  Cout Sout Cin Xin Yin

        X_HALFADDER1 N$2 N$426 Xin Yin HalfAdder
        X_HALFADDER2 N$3 Sout N$426 Cin HalfAdder
        X_OR1 Cout N$2 N$3 OR
.ends FullAdder

