* SPICE NETLIST
***************************************

.SUBCKT HalfAdder X S C Y GROUND VDD
** N=10 EP=6 IP=0 FDC=12
M0 7 Y X GROUND N L=4e-07 W=2.4e-06 AD=3.84e-12 AS=3.36e-12 $X=-2000 $Y=-37000 $D=1
M1 Y X 7 GROUND N L=4e-07 W=2.4e-06 AD=3.36e-12 AS=3.84e-12 $X=8000 $Y=-37000 $D=1
M2 GROUND 7 S GROUND N L=4e-07 W=1.2e-06 AD=2.16e-12 AS=1.68e-12 $X=32000 $Y=-31000 $D=1
M3 9 Y 8 GROUND N L=4e-07 W=2.4e-06 AD=1.44e-12 AS=2.88e-12 $X=79000 $Y=-36000 $D=1
M4 GROUND X 9 GROUND N L=4e-07 W=2.4e-06 AD=3.12e-12 AS=1.44e-12 $X=84000 $Y=-36000 $D=1
M5 C 8 GROUND GROUND N L=4e-07 W=1.2e-06 AD=1.44e-12 AS=3.12e-12 $X=93000 $Y=-30000 $D=1
M6 10 Y VDD VDD P L=4e-07 W=4.8e-06 AD=2.88e-12 AS=8.64e-12 $X=-2000 $Y=-12000 $D=0
M7 7 X 10 VDD P L=4e-07 W=4.8e-06 AD=6.72e-12 AS=2.88e-12 $X=3000 $Y=-12000 $D=0
M8 VDD 7 S VDD P L=4e-07 W=3.6e-06 AD=6.48e-12 AS=5.04e-12 $X=32000 $Y=-12000 $D=0
M9 8 Y VDD VDD P L=4e-07 W=2.4e-06 AD=2.88e-12 AS=3.84e-12 $X=79000 $Y=-12000 $D=0
M10 VDD X 8 VDD P L=4e-07 W=2.4e-06 AD=2.88e-12 AS=2.88e-12 $X=87000 $Y=-12000 $D=0
M11 C 8 VDD VDD P L=4e-07 W=2.4e-06 AD=2.88e-12 AS=2.88e-12 $X=95000 $Y=-12000 $D=0
.ENDS
***************************************
.SUBCKT FullAdder Xin Yin Cin Sout Cout VDD GROUND
** N=12 EP=7 IP=12 FDC=30
M0 11 7 GROUND GROUND N L=4e-07 W=1.2e-06 AD=1.44e-12 AS=1.92e-12 $X=143000 $Y=-56000 $D=1
M1 GROUND 4 11 GROUND N L=4e-07 W=1.2e-06 AD=1.44e-12 AS=1.44e-12 $X=151000 $Y=-56000 $D=1
M2 Cout 11 GROUND GROUND N L=4e-07 W=1.2e-06 AD=1.44e-12 AS=1.44e-12 $X=159000 $Y=-56000 $D=1
M3 12 7 11 VDD P L=4e-07 W=4.8e-06 AD=2.88e-12 AS=5.76e-12 $X=143000 $Y=-36000 $D=0
M4 VDD 4 12 VDD P L=4e-07 W=4.8e-06 AD=6.24e-12 AS=2.88e-12 $X=148000 $Y=-36000 $D=0
M5 Cout 11 VDD VDD P L=4e-07 W=2.4e-06 AD=2.88e-12 AS=6.24e-12 $X=157000 $Y=-36000 $D=0
X6 Xin 3 4 Yin GROUND VDD HalfAdder $T=-121000 -18000 0 0 $X=-146000 $Y=-62002
X7 3 Sout 7 Cin GROUND VDD HalfAdder $T=12000 -18000 0 0 $X=-13000 $Y=-62002
.ENDS
***************************************
