* SPICE NETLIST
***************************************

.SUBCKT HalfAdder X S C Y GROUND VDD
** N=10 EP=6 IP=0 FDC=12
M0 1 Y X GROUND N L=4e-07 W=2.4e-06 AD=3.84e-12 AS=3.36e-12 $X=-2000 $Y=-37000 $D=1
M1 Y X 1 GROUND N L=4e-07 W=2.4e-06 AD=3.36e-12 AS=3.84e-12 $X=8000 $Y=-37000 $D=1
M2 GROUND 1 S GROUND N L=4e-07 W=1.2e-06 AD=2.16e-12 AS=1.68e-12 $X=32000 $Y=-31000 $D=1
M3 9 Y 7 GROUND N L=4e-07 W=2.4e-06 AD=1.44e-12 AS=2.88e-12 $X=79000 $Y=-36000 $D=1
M4 GROUND X 9 GROUND N L=4e-07 W=2.4e-06 AD=3.12e-12 AS=1.44e-12 $X=84000 $Y=-36000 $D=1
M5 C 7 GROUND GROUND N L=4e-07 W=1.2e-06 AD=1.44e-12 AS=3.12e-12 $X=93000 $Y=-30000 $D=1
M6 10 Y VDD VDD P L=4e-07 W=4.8e-06 AD=2.88e-12 AS=8.64e-12 $X=-2000 $Y=-12000 $D=0
M7 1 X 10 VDD P L=4e-07 W=4.8e-06 AD=6.72e-12 AS=2.88e-12 $X=3000 $Y=-12000 $D=0
M8 VDD 1 S VDD P L=4e-07 W=3.6e-06 AD=6.48e-12 AS=5.04e-12 $X=32000 $Y=-12000 $D=0
M9 7 Y VDD VDD P L=4e-07 W=2.4e-06 AD=2.88e-12 AS=3.84e-12 $X=79000 $Y=-12000 $D=0
M10 VDD X 7 VDD P L=4e-07 W=2.4e-06 AD=2.88e-12 AS=2.88e-12 $X=87000 $Y=-12000 $D=0
M11 C 7 VDD VDD P L=4e-07 W=2.4e-06 AD=2.88e-12 AS=2.88e-12 $X=95000 $Y=-12000 $D=0
.ENDS
***************************************
