* SPICE NETLIST
***************************************

.SUBCKT OR OUT B VDD GROUND A
** N=7 EP=5 IP=0 FDC=6
M0 4 B GROUND GROUND N L=4e-07 W=1.2e-06 AD=1.44e-12 AS=1.92e-12 $X=-45000 $Y=14000 $D=1
M1 GROUND A 4 GROUND N L=4e-07 W=1.2e-06 AD=1.44e-12 AS=1.44e-12 $X=-37000 $Y=14000 $D=1
M2 OUT 4 GROUND GROUND N L=4e-07 W=1.2e-06 AD=1.44e-12 AS=1.44e-12 $X=-29000 $Y=14000 $D=1
M3 7 B 4 VDD P L=4e-07 W=4.8e-06 AD=2.88e-12 AS=5.76e-12 $X=-45000 $Y=34000 $D=0
M4 VDD A 7 VDD P L=4e-07 W=4.8e-06 AD=6.24e-12 AS=2.88e-12 $X=-40000 $Y=34000 $D=0
M5 OUT 4 VDD VDD P L=4e-07 W=2.4e-06 AD=2.88e-12 AS=6.24e-12 $X=-31000 $Y=34000 $D=0
.ENDS
***************************************
